US07632946B2
pyrrolidin-2-ylmethyl triphenylmethylamine
Pyrrolidin-2-ylmethylamine (527 mg) in dichloromethane (10 mL) was treated with triphenylmethyl chloride (1.47 g) and triethylamine (1.5 mL), stirred for 3 hours, treated with dichloromethane, washed with water, saturated NaHCO3, and water, and concentrated. The concentrate was flash chromatographed on silica gel with a gradient of 3%-10% methanol in 99:1 dichloromethane/triethylamine. 1H NMR (DMSO-d6) δ 7.4 (m, 6H), 7.3 (m, 6H), 7.2 (m, 3H), 3.2 (m, 1H), 2.8-2.5 (m, 2H), 2.0 (m, 1H), 1.9 (m, 1H), 1.7 (m, 1H), 1.5 (m, 2H), 1.2 (m, 1H).

reactant | Pyrrolidin-2-ylmethylamine | 527 mg | N1C(CCC1)CN | C5H12N2
reactant | triphenylmethyl chloride | 1.47 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | triethylamine | 1.5 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | pyrrolidin-2-ylmethyl triphenylmethylamine | N1C(CCC1)CNC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H26N2
